US05457118
Ethyl 3-[3-(2-t-butoxycarbonylaminoethyl)-5-(3-pyridylmethyl)phenyl]propanoate
A solution of 3-[3-(2-ethoxycarbonylethyl)-5-(3-pyridylmethyl)phenyl]propanoic acid (Preparation 31; 4.89), diphenylphosphoryl azide (3.94 g) and triethylamine (1.45 g) in t-butanol (50 ml) was heated under reflux for 18 hours and then evaporated under vacuum. The residue was chromatographed on silica gel using dichloromethane:methanol (50:1) as eluent. After elution of some impurity, the product fractions were obtained; these were combined and evaporated under vacuum to give the title compound as an oil (3.60 g); Rf 0.50 (SS 1); δ (CDCl3): 1.21(3H,t,J=7.1 Hz), 1.42(9H,s), 2.56(2H,t,J=7.8 Hz), 2.72(2H,t,J=7.1 Hz), 2.88(2H,t,J=7.8 Hz), 3.32(2H,m), 3.91(2H,s), 4.09(2H,t,J=7.1 Hz), 4.53(1H, br), 6.85(1H,s), 6.86(1H,s), 6.89(1H,s), 7.17-7.21 (1H,m), 7.43-7.45(1H,m), 8.44-8.48(2H,m).

reactant | 3-[3-(2-ethoxycarbonylethyl)-5-(3-pyridylmethyl)phenyl]propanoic acid | C(C)OC(=O)CCC=1C=C(C=C(C1)CC=1C=NC=CC1)CCC(=O)O | C20H23NO4
reactant | diphenylphosphoryl azide | 3.94 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triethylamine | 1.45 g | C(C)N(CC)CC | C6H15N
reactant | t-butanol | 50 ml | C(C)(C)(C)O | C4H10O
product | Ethyl 3-[3-(2-t-butoxycarbonylaminoethyl)-5-(3-pyridylmethyl)phenyl]propanoate | 3.60 g | C(C)(C)(C)OC(=O)NCCC=1C=C(C=C(C1)CC=1C=NC=CC1)CCC(=O)OCC | C24H32N2O4
